US04243672
2-Ethylpyrrole (4.75 g., 0.05 mole) was added dropwise to a stirred solution of glyoxylic acid hydrate (2.3 g., 0.025 mole) in 0.880 sp. gr. ammonia solution (25 ml.) at 50°. The mixture was stirred at 50° for 4 hours, then cooled, acidified to pH 5.5 with concentrated hydrochloric acid and filtered. The resulting solid was washed with water, triturated with cold, then hot; methanol and dried in vacuo to afford DL-2-(5-ethyl-2-pyrrolyl)glycine (1.8 g., 43%), M.P. 188° (decomp.).

reactant | 2-Ethylpyrrole | 0.05 mole, 4.75 g | C(C)C=1NC=CC1 | C6H9N
reactant | glyoxylic acid hydrate | 0.025 mole, 2.3 g | O.C(C=O)(=O)O
reactant | ammonia | 25 ml | N | H3N
reactant | hydrochloric acid | Cl | ClH
product | 2-(5-ethyl-2-pyrrolyl)glycine | 1.8 g, 43% | C(C)C1=CC=C(N1)C(N)C(=O)O | C8H12N2O2
